US06008382
100 g (0.24 mol) of podophyllotoxin I are dissolved in 186 ml of trifluoroacetic acid with stirring. After cooling the reaction mixture to 0° C., a solution of 198 g (1.32 mol) of D,L-methionine in 500 ml of methanesulfonic acid is introduced, the reaction mixture being maintained between 10 and 20° C. 200 ml of methanesulfonic acid are added to the mixture, which is kept stirring for 1 h at this temperature. The reaction mixture is poured with stirring onto 4 l of water and of ice and the product precipitates. It is extracted with ethyl acetate (3×1 l ). The combined organic phases are washed with an NaHCO3 solution and then dried over Na2SO4, filtered and evaporated under reduced pressure in order to obtain 91.5 g (Yd 94%) of crude 4'-demethylepipodophyllotoxin.

reactant | podophyllotoxin | 0.24 mol, 100 g | COC=1C=C(C=C(C1OC)OC)[C@@H]2C=3C=C4C(=CC3[C@@H]([C@@H]5[C@@H]2C(=O)OC5)O)OCO4 | C22H22O8
reactant | D,L-methionine | 1.32 mol, 198 g | NC(CCSC)C(=O)O | C5H11NO2S
reactant | water | 4 l | O | H2O
solvent | trifluoroacetic acid | 186 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanesulfonic acid | 500 ml | CS(=O)(=O)O | CH4O3S
solvent | methanesulfonic acid | 200 ml | CS(=O)(=O)O | CH4O3S
product | 4'-demethylepipodophyllotoxin | 91.5 g, 94% | COC=1C=C(C=C(C1O)OC)[C@@H]2C=3C=C4C(=CC3[C@H]([C@@H]5[C@@H]2C(=O)OC5)O)OCO4 | C21H20O8
